US07312224B2
6.2 15 ml of oxalyl chloride are added dropwise at from −2 to 0° to a solution of 15 ml of DMF in 300 ml of acetonitrile, and the mixture is stirred for a further 30 minutes. 23.25 g of “FA” are added dropwise at a maximum of 0°, and, after the mixture has been stirred for 15 minutes, 29 ml of pyridine are added dropwise. Ether is added, and the mixture is subjected to conventional work-up, giving 20 g of methyl 4-cyanobutyrate (“FB”) as an oil.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | pyridine | 29 ml | N1=CC=CC=C1 | C5H5N
reactant | Ether | CCOCC | C4H10O
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | methyl 4-cyanobutyrate | 20 g | C(#N)CCCC(=O)OC | C6H9NO2
